### PR TITLE
feat(Tactic/NormNum): add `norm_num_simproc` and use it for `Nat.fib`

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds a `norm_num_simproc` command that declares a `norm_num` extension and registers it as a simproc in the given simproc sets from a single declaration. We then try this out for `Nat.fib`, converting the existing `norm_num` extension.

```lean
norm_num_simproc [simp, seval] evalNatFib (Nat.fib _) where
  eval {_ _} e := ...
```

declares `evalNatFib : NormNumExt` tagged `@[norm_num Nat.fib _]`, plus `evalNatFib.simproc` registered under `[simp, seval]`. Registering in `seval` makes the procedure reachable from `grind`, which previously could not evaluate `Nat.fib` at all. (`simp` couldn't either.)

`NormNum.derive` walks the extension `DiscrTree` and performs no traversal of its own, so an extension is responsible for normalising its own operands via a recursive `derive`. Consumers that call `derive` directly rather than through `simp` (in particular `ring`, `positivity`, `field_simp`'s discharger, `interval_cases`, and `reduce_mod_char`) depend on that. A simproc only rewrites the expression it is handed, so generating the extension from a simproc instead would silently fail for those consumers as soon as the operands are not already literals. `MathlibTest/Tactic/NormNum/NatFib.lean` verifies that we still get this right with `positivity` on `0 < Nat.fib (Nat.sqrt 144)`.

`Nat.fib` is a deliberately conservative first case. `proveNatFib` is fast doubling, so evaluation is O(log n) big-number multiplications: `Nat.fib 50000` takes 126µs and the only thing that grows is the resulting literal, which is the answer the caller asked for. Around 30 further extensions are candidates for the same treatment, but several of them (e.g. `Nat.factorial`, `Nat.Prime`, the Jacobi and Legendre symbols) are not bounded that way, and a globally registered `[simp]` simproc runs on every `simp` call in the library. Those want per-extension `[simp]` versus `[seval]` decisions and their own benchmarks.

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/Tactic/NormNum/Core.lean [hunk 1]
```diff
@@ -217,6 +217,47 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+Only use this for extensions that evaluate ground numerals; a broadly-matching extension
+registered as a global simproc will run on every `simp` call in the library. -/
+syntax (docComment)? "norm_num_simproc " "[" Lean.Parser.Term.attrInstance,* "] " ident
+  " (" term ") " Lean.Parser.Command.declVal : command
+
+open Lean Elab Command in
+elab_rules : command
+  | `($[$doc?:docComment]?norm_num_simproc [$attrs,*] $name:ident ($pat:term) $val:declVal) => do
+    let procName := mkIdentFrom name (name.getId ++ `simproc)
+    elabCommand (← `($[$doc?:docComment]?@[norm_num $pat] def $name : NormNumExt $val:declVal))
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/Core.lean]: I think this will only work as intended if we are in a `public meta section`

File: Mathlib/Tactic/NormNum/Core.lean [hunk 2]
```diff
@@ -217,6 +217,47 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+exactly the behaviour they see today; the simproc is a lossy view of it through
+`Result.toSimpResult`. Going the other way round does not work: a bare simproc only rewrites the
+expression it is handed, and `derive` performs no traversal of its own. -/
+def NormNumExt.toSimproc (ext : NormNumExt) : Simp.Simproc := fun e => do
+  let saved ← Lean.Meta.saveState
+  try
+    let ⟨_, _, e⟩ ← inferTypeQ' e
+    return .done (← withReducibleAndInstances <| (← ext.eval e).toSimpResult)
+  catch _ =>
+    Lean.Meta.SavedState.restore saved
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/Core.lean]: What is the `saveState` for? This is not usually something that `simproc`s have to worry about.

**Review by JovanGerb — COMMENTED** [review]
Thanks, this seems useful. Do you have other use cases in mind besides `Nat.fib`?

**Comment by kim-em** [comment]
> Do you have other use cases in mind besides `Nat.fib`?

Yes, see PR description! I think quite a few could/should be replaced in this way. 

Also, more generally, I think it's good for us to try to bring the norm_num / simproc machinery into closer alignment, with the goal of making it easier to eventually replace norm_num with some more general (i.e. not just operating on a fixed set of types).

File: Mathlib/Tactic/NormNum/Core.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Tactic/NormNum/Core.lean]: Fixed in 1ac26824ec5eaed9dc145a2f2674ecca167e292c.

File: Mathlib/Tactic/NormNum/Core.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Tactic/NormNum/Core.lean]: :robot: Claude says:

Backtracking, and it turned out to be load-bearing. `derive` restores the state after every extension that throws (`Core.lean:105`/`116`), so extensions are written assuming a failed `eval` is undone for them; `toSimproc` is the one call site that doesn't go through `derive`.

```lean
public def f (n : ℕ) : ℕ := n

norm_num_simproc [simp] evalLeak (f _) where
  eval {_ _} e := do
    let .app _ (x : Q(ℕ)) ← Meta.whnfR e | failure
    let _ ← isDefEq x (mkNatLit 5)   -- assign the operand, then fail
    failure

example : ∃ n : ℕ, f n + (1 + 1) = 5 := by
  apply Exists.intro
  simp only [evalLeak.simproc, Nat.reduceAdd]
  trace_state
```

Without the backtracking this leaves `f 5 + 2 = 5` and the `?n` goal is gone; with it, `f ?n + 2 = 5`. The `simp` has to succeed for an unrelated reason, otherwise the surrounding tactic backtracks and hides it.

Rewritten as `observing?` so it says what it is. That also fixed a separate bug: in `return .done (← withReducibleAndInstances <| (← ext.eval e).toSimpResult)` do-notation hoists the inner `←` out, so `ext.eval` was running at default transparency rather than `instances` like it does under `derive`.

Comment (JovanGerb) [reply Mathlib/Tactic/NormNum/Core.lean]: Sorry, I am having a lot of trouble with reading the LLM output.

But it seems that you did remove the `saveState` as I suggested?

Comment (kim-em) [reply Mathlib/Tactic/NormNum/Core.lean]: No, I replaced it with an `observing?`, which will also roll back state.

File: Mathlib/Tactic/NormNum/Core.lean [hunk 3]
```diff
@@ -217,6 +217,53 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+
+The extension remains the source of truth. It still normalises its own operands by calling
+`derive` recursively, so direct `NormNum.derive` consumers such as `ring` and `positivity` see
+exactly the behaviour they see today; the simproc is a lossy view of it through
+`Result.toSimpResult`. Going the other way round does not work: a bare simproc only rewrites the
+expression it is handed, and `derive` performs no traversal of its own.
+
+The `observing?` matches what `derive` does for the extensions it runs: it restores the state
+after every extension that throws, so extensions are written on the assumption that a failed
+`eval` is backtracked for them, and this is the one call site that does not go through `derive`. -/
```
Comment (thorimur) [inline Mathlib/Tactic/NormNum/Core.lean]:
```suggestion
/-- Expose a `norm_num` extension as a simproc.

Note that the resulting simproc will recursively normalize subexpressions using `norm_num` 
extensions before returning, since the wrapped `NormNumExt.eval` calls `derive?` on subexpressions. 
(As such, it returns `.done` on success.)

This safely reverts the `MetaM` state if the `norm_num` extension fails (in which case the 
simproc returns `.continue`). -/
```

I've tried to translate from Claudish. :) (I don't think the information about not being able to go the other direction belongs in this docstring.)

File: Mathlib/Tactic/NormNum/Core.lean [hunk 4]
```diff
@@ -217,6 +217,53 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+  eval {_ _} e := ...
+```
+This declares `evalNatFib : NormNumExt`, tags it `@[norm_num Nat.fib _]`, and additionally
+declares `evalNatFib.simproc` and registers it under `[simp, seval]`. Registering in `seval`
+is what makes the procedure available to `grind`. Both declarations are generated as
+`public meta`, which `@[norm_num]` requires, so the command does not need to be used inside a
+`public meta section`.
+
+Only use this for extensions that evaluate ground numerals; a broadly-matching extension
+registered as a global simproc will run on every `simp` call in the library. -/
```
Comment (thorimur) [inline Mathlib/Tactic/NormNum/Core.lean]:
```suggestion
is what makes the procedure available to `grind`.

Both declarations are generated as `public meta`, which `@[norm_num]` requires, so the command does 
not need to be used inside a `public meta section`.

Only extensions with specific enough patterns should be registered under `[simp]`, as this affects 
every subsequent call to `simp`. -/
```

**Comment by thorimur** [comment]
I think this is a great direction to move in! A couple questions on the interface:

(Note: I'm assuming the only problem this PR is solving is "unifying the interface" which is why I'm being picky about said interface. If we want it in for a different reason I think this is otherwise fine :) )

1. Is there a reason this requires `[simp, seval]` instead of following the existing pattern of `simproc` + `simproc_decl` commands (and e.g. `cbv_simproc`) which attach the meaningful attributes automatically by default (or not, in the case of `simproc_decl`? (I'm imagining `norm_num_simproc_decl` would still attach `@[norm_num $pat]` and affect `norm_num` but would not put the simproc in the simp set, probably, as there's not really any user-facing use for a "norm num decl".)
  a. Is it maybe to encourage deliberately considering `seval`?
  b. If so...should attaching `seval` be the default for `norm_num_simproc`s? 👀 Not familiar with `seval`, so not sure if we should think of attaching `seval` as just "good practice for certain simprocs", or if the command name would deserve to be changed. (Obviously we'd still need the ability to *not* attach it, so if it was attached by default we'd probably need to support `-seval` as a special case, or just tell users to attach `@[simp]` and not `@[seval]` to `norm_num_simproc_decl`. :/ )
2. I suspect the user-provided name following `norm_num_simproc` should be the simproc name, not the `norm_num` extension decl name, as it might be referenced by users in `simp` calls. (Whereas `norm_num` extension declaration names are almost never referenced directly, even in meta code, as they're typically accessed indirectly through `derive?`.) Perhaps `norm_num_simproc id` should create a `simproc` called `id` and a norm num extension called ``id ++ `normNumExt`` or ``id ++ `normNumEval``? (Not fussy about the name, just thinking the typical `eval` might be a little undescriptive.)

Misc., Claude could probably take care of these:

- We should take in `attrKind` in front of the command, and pass it through as appropriate to the `@[norm_num]` attribute. And, if you agree with attaching simp-related attrs by default as in (1.), to the automatically attached attributes too (but not to any optionally-provided attributes).
- Likewise, if you agree with (2.), we should probably make sure the simproc decl gets passed the user-written `docComment` and the norm num extension gets the uninformative autogenerated one.
- We can probably write this as just a macro that returns a `mkNullNode` of commands instead of using `elabCommand` right? Might be simpler, and this is what `simproc` does anyway.
- We should pass through position information via e.g. `%$tk` and/or use it with `mkNullNode`/`withRef` as appropriate to improve error reporting locations (some error reporting happens on the `def` token for instance, if I recall correctly).

**Comment by kim-em** [comment]
@thorimur

re: `[simp, seval]`, I've changed it to match simprocs, so `[simp]` is the default and if you want anything else you give the full `[...]` list.

Otherwise, all modified as you suggest.

File: Mathlib/Tactic/NormNum/Core.lean [hunk 5]
```diff
@@ -217,6 +217,72 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+        ⟨mkNode attrName #[mkAtomFrom id attrKey, mkNullNode #[]]⟩
+      `(attribute%$tk [$kind $attr] $name)
+    return mkNullNode <| #[
+      (← `(/-- The `norm_num` extension underlying the companion simproc. -/
+        public meta def%$tk $extName : NormNumExt $val:declVal)),
+      -- Apply this outside the definition's namespace so `scoped` uses the user's namespace.
+      (← `(attribute%$tk [$kind norm_num $pat] $extName)),
+      (← `($[$doc?:docComment]? public meta def%$tk $name : Simp.Simproc :=
+        NormNumExt.toSimproc $extName)),
+      (← `(simproc_pattern% $pat => $name))] ++ attrs
```
Comment (thorimur) [inline Mathlib/Tactic/NormNum/Core.lean:284]: A couple minor code readability suggestions + comments + error reporting for the simproc's body

```suggestion
    let sets := sets.elim #[mkIdentFrom tk `simp] (·.getElems)
    -- The following is patterned off of the private `mkAttributeCmds` in `Init.Simproc`.
    let attrs ← sets.mapM fun id => withRef id do
      let (attrName, attrKey) :=
        if id.getId == `simp then (`simprocAttr, "simproc")
        else if id.getId == `seval then (`sevalprocAttr, "sevalproc")
        else
          let procAttr := id.getId.appendAfter "_proc"
          (`Parser.Attr ++ procAttr, procAttr.toString)
      let attr : TSyntax `attr :=
        -- `mkOptionalNode none` reflects the absence of `↓`.
        ⟨mkNode attrName #[mkAtomFrom id attrKey, mkOptionalNode none]⟩
      `(attribute [$kind $attr] $name)
    let simprocDeclVal ← withRef val `(Parser.Command.declVal| := NormNumExt.toSimproc $extName)
    return mkNullNode <| #[
      ← `(/-- The `norm_num` extension underlying the companion simproc. -/
        public meta def%$tk $extName : NormNumExt $val:declVal),
      -- Apply this outside the definition's namespace so `scoped` uses the user's namespace.
      ← `(attribute%$tk [$kind norm_num $pat] $extName),
      ← `($[$doc?:docComment]? public meta def%$tk $name : Simp.Simproc $simprocDeclVal:declVal),
      ← `(simproc_pattern%%$tk $pat => $name)] ++ attrs

end simprocs
```

File: Mathlib/Tactic/NormNum/Core.lean [hunk 6]
```diff
@@ -217,6 +217,72 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+`norm_num` extension is registered in all cases. A `local` or `scoped` modifier applies to
+both the `norm_num` registration and the selected simproc sets.
+
+Both declarations are generated as `public meta`, so the command does not need to be used
+inside a `public meta section`. The user-written doc comment documents the simproc.
+
+Only use this for extensions that evaluate ground numerals; a broadly-matching extension
+registered as a global simproc will run on every `simp` call in the library. -/
+syntax (docComment)? Lean.Parser.Term.attrKind "norm_num_simproc " ("[" ident,* "]")? ident
+  " (" term ") " Lean.Parser.Command.declVal : command
```
Comment (thorimur) [inline Mathlib/Tactic/NormNum/Core.lean]: More translation :) I don't think we need the part about "ground numerals", that's the only kind of thing that `norm_num` can handle anyway. (We could have a bit about choosing a specific pattern, but it's not clear to me how it should communicate what "specific enough" is.) Also some minor whitespace fixes to the syntax. (`declVal` begins with whitespace.)

```suggestion
If omitted, the simproc sets default to `[simp]`.

`simp` is *not* included in the simproc sets by default if any simproc sets are provided
explicitly. For example, `norm_num_simproc [seval]` will only register the simproc for `seval`.

Likewise, `norm_num_simproc []` registers a `norm_num` extension and produces a
user-accessible simproc (available through e.g. `simp only [evalNatFib]`) but does not activate it
in any simproc set. Note that the `norm_num` extension will be activated in `norm_num` in all cases.

A `local` or `scoped` modifier applies to both the `norm_num` registration and the selected simproc
sets.

All `norm_num_simproc`s are registered as ordinary `post` simprocs.

Both declarations are generated as `public meta`, so the command does not need to be used inside a
`public meta section`. -/
syntax (docComment)? Parser.Term.attrKind "norm_num_simproc" (" [" ident,* "]")? ident
  " (" term ")" Parser.Command.declVal : command
```

File: Mathlib/Tactic/NormNum/Core.lean [hunk 7]
```diff
@@ -217,6 +217,72 @@ def tryNormNum (post := false) (e : Expr) : SimpM Simp.Step := do
...
+The extension remains the source of truth. It still normalises its own operands by calling
+`derive` recursively, so direct `NormNum.derive` consumers such as `ring` and `positivity` see
+exactly the behaviour they see today; the simproc is a lossy view of it through
+`Result.toSimpResult`. A bare simproc cannot directly replace the extension under the current
+`derive` interface: it only rewrites the expression it is handed, and `derive` performs no
+traversal of its own.
+
+The `observing?` matches what `derive` does for the extensions it runs: it restores the state
+after every extension that throws, so extensions are written on the assumption that a failed
+`eval` is backtracked for them, and this is the one call site that does not go through `derive`. -/
```
Comment (thorimur) [inline Mathlib/Tactic/NormNum/Core.lean:231]: I've tried to translate from Claudish. :) (I don't think the information about not being able to go the other direction belongs in this docstring.) Also wraps this in a section (closed by a later comment).

```suggestion

section simprocs

/-- Expose a `norm_num` extension as a simproc.

Note that the resulting simproc will recursively normalize subexpressions using `norm_num`
extensions before returning, since the wrapped `NormNumExt.eval` calls `derive?` on subexpressions.
(As such, it returns `.done` on success.)

This safely reverts the `MetaM` state if the `norm_num` extension fails, in which case the
simproc returns `.continue`. -/
```

File: Mathlib/Tactic/NormNum/Core.lean (hunk 6 above)
Comment (thorimur) [inline Mathlib/Tactic/NormNum/Core.lean:260]: More rewriting :) I don't think we need the part about "ground numerals", that's the only kind of thing that norm_num can handle anyway. (We could have a bit about choosing a specific pattern, but it's not clear to me how it should communicate what "specific enough" is.)

Also some minor whitespace fixes to the syntax. (declVal begins with whitespace.)

```suggestion
If omitted, the simproc sets default to `[simp]`.

`simp` is *not* included in the simproc sets by default if any simproc sets are provided
explicitly. For example, `norm_num_simproc [seval]` will only register the simproc for `seval`.

Likewise, `norm_num_simproc []` registers a `norm_num` extension and produces a
user-accessible simproc (available through e.g. `simp only [evalNatFib]`) but does not activate it
in any simproc set. Note that the `norm_num` extension will be activated in `norm_num` in all cases.

A `local` or `scoped` modifier applies to both the `norm_num` registration and the selected simproc
sets.

All `norm_num_simproc`s are registered as ordinary `post` simprocs.

Both declarations are generated as `public meta`, so the command does not need to be used inside a
`public meta section`. -/
syntax (docComment)? Parser.Term.attrKind "norm_num_simproc" (" [" ident,* "]")? ident
  " (" term ")" Parser.Command.declVal : command
```

File: Mathlib/Tactic/NormNum/NatFib.lean [hunk 8]
```diff
@@ -106,15 +106,21 @@ def proveNatFib (en' : Q(ℕ)) : (em : Q(ℕ)) × Q(Nat.fib $en' = $em) :=
...
-  let ⟨ey, pf⟩ := proveNatFib ex
-  let pf' : Q(IsNat (Nat.fib $x) $ey) := q(isNat_fib $p $pf)
-  return .isNat sℕ ey pf'
+/-- Evaluates the `Nat.fib` function.
+
+This simproc is registered in `simp` and `seval`, so `simp` and `grind` can evaluate `Nat.fib`
+on numerals. Its underlying `norm_num` extension is `evalNatFib.normNumExt`.
+`proveNatFib` uses fast doubling, with logarithmically many big-integer
+multiplications. Their cost grows with the output size, so large inputs can still be expensive,
+as can normalizing the operand before evaluating `Nat.fib`. -/
```
Comment (thorimur) [inline Mathlib/Tactic/NormNum/NatFib.lean:115]: Some tweaks (e.g. eliminate references to API invisible to the ordinary user like `proveNatFib` and the name of the norm num extension)

```suggestion
/-- Evaluates the `Nat.fib` function.

This simproc is registered in `simp` and `seval`, so `simp` and `grind` can evaluate `Nat.fib`
on numerals. It uses fast doubling, with logarithmically many big-integer multiplications. Their 
cost grows with the output size, so large inputs may still be expensive, as might normalizing the 
argument before evaluating `Nat.fib`. -/
```

**Review by thorimur — COMMENTED** [review]
Thanks! I've mainly rewritten some docstrings and also polished things a tiny bit in these suggestions.

Though, there was one broader concern that came up when giving it another look and comparing to `simproc`: is the `pre`/`post` handling correct? `NormNumExt`s have `pre` and `post` fields, and by default both are true. But we only create `post` simprocs. (However, these may be set arbitrarily by the user.)

I also noticed that `evalNatFib` warns that normalizing the argument first may be expensive, but of course `evalNatFib` is a `post` simproc.

Should we read the `pre` and `post` off of the `NormNumExt` , and use these to guide the attribute attachment? (That'd mean making each one both pre and post by default, and I'm not sure if that's desired.) If not, we should document the reasoning. (I've tentatively said everything is post in the docstring recs.)

(If so, it might make sense to move back to an elab and get the flags via `evalConstCheck`, unless there's a nicer syntax approach available :/ But if not it's of course fine the way it is. )
